US05171819
In this example, 1780 g (20 mol) of 2-amino-2-methyl-1-propanol and 10 g water were added to a 5-liter three-necked flask equipped with a thermometer, condenser, magnetic stirrer, dropping funnel, and nitrogen inlet. 1,2-butylene oxide (1584 g, 22 mol) was added into the flask slowly at 90° C.-100° C. with stirring and under a nitrogen atmosphere. The resulting crude product was N-(2'-hydroxybutyl)-2-amino-2-methyl-1-propanol (82% yield with 90% alkanolamine conversion as determined by GLC).

reactant | 2-amino-2-methyl-1-propanol | 20 mol, 1780 g | NC(CO)(C)C | C4H11NO
reactant | 1,2-butylene oxide | 22 mol, 1584 g | C1C(CC)O1 | C4H8O
solvent | water | 10 g | O | H2O
product | N-(2'-hydroxybutyl)-2-amino-2-methyl-1-propanol | 82% yield | OC(CNC(CO)(C)C)CC | C8H19NO2
